US07767695B2
1-Isopropyl-4-methylaminopiperidine
To a stirred mixture of methylamine hydrochloride (2.62 g, 38.8 mmol), THF (30 ml), ethanol (15 ml), N-isopropyl-4-piperidinone (3.0 ml, 20.2 mmol), and acetic acid (3.60 ml) was added sodium cyanoborohydride (30 ml, 1 molar solution in THF, 30 mmol), and the mixture was stirred at 60° C. for 6 hours and then at room temperature overnight. The mixture was concentrated under reduced pressure, water (50 ml) and potassium carbonate (47.0 g) were added, and the mixture was extracted with ethyl acetate (6×50 ml). The combined extracts were dried over magnesium sulphate and concentrated, to yield 3.78 g (quant.) of the title compound as an oil, which was used without further purification.

reactant | methylamine hydrochloride | 38.8 mmol, 2.62 g | Cl.CN
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | N-isopropyl-4-piperidinone | 20.2 mmol, 3.0 ml | C(C)(C)N1CCC(CC1)=O | C8H15NO
reactant | sodium cyanoborohydride | 30 mmol, 1 molar, 30 ml | C(#N)[BH3-].[Na+]
solvent | acetic acid | 3.60 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-Isopropyl-4-methylaminopiperidine | C(C)(C)N1CCC(CC1)NC | C9H20N2
